US09085555B2
D. (2S,5R)-5-Hydroxymethyl-2-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
A mixture of (2S,5R)-5-hydroxymethyl-pyrrolidine-2-carboxylic acid (3-trifluoromethoxy-phenyl)-amide (422 mg, 1.27 mmol), (Boc)2O (420 mg, 1.91 mmol) and NaHCO3 (161 mg, 1.91 mmol) in water/dioxane (2.5/2.5 mL) was stirred for 48 h. CH2Cl2 and HCl 0.1N were added, the layers were separated and the aqueous one re-extracted with CH2Cl2. The crude organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane/EtOAc gradient 100:0 to 1:1) to give the desired compound. MS (LC-MS): 403 [M−H]−; tR (HPLC conditions b) 4.76 min.

reactant | (2S,5R)-5-hydroxymethyl-pyrrolidine-2-carboxylic acid (3-trifluoromethoxy-phenyl)-amide | 1.27 mmol, 422 mg | FC(OC=1C=C(C=CC1)NC(=O)[C@H]1N[C@H](CC1)CO)(F)F | C13H15F3N2O3
reactant | (Boc)2O | 1.91 mmol, 420 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 1.91 mmol, 161 mg | C(=O)(O)[O-].[Na+]
reactant | HCl | 0.1N | Cl | ClH
solvent | water dioxane | 2.5 mL | O.O1CCOCC1
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2S,5R)-5-Hydroxymethyl-2-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CC[C@@H]1CO)C(NC1=CC(=CC=C1)OC(F)(F)F)=O | C18H23F3N2O5
